US08203004B2
(1S)-3-Phenyl-1-[4-(trifluoromethyl)phenyl]propyl amine hydrochloride salt
2-methyl-N-{(1S)-3-phenyl-1-[4-(trifluoromethyl)phenyl]propyl}propane-2-sulfinamide (JACS, 2005, 127, 1092-3) (8.3 g, 21.7 mmol) was dissolved in methanol (50 mL) and a 4M solution of HCl in dioxane (10.8 mL) was added. The solution was stirred at RT for 1 h then concentrated. The residue was triturated with isohexane to give a colourless solid which was collected by filtration. 1H NMR (400 MHz), δ (ppm) (DMSO-D6): 8.7 (3H, s), 7.85 (2H, d, J 8.3 Hz), 7.77 ((2H, d, J 8.3 Hz), 7.29-7.26 (2H, m), 7.20-7.13 (3H, m), 4.36 (1H, m), 2.4-2.35 (2H, m), 2.35-2.25 (m, 1H), 2.2-2.1 (1H, m).

reactant | 2-methyl-N-{(1S)-3-phenyl-1-[4-(trifluoromethyl)phenyl]propyl}propane-2-sulfinamide | 21.7 mmol, 8.3 g | CC(C)(C)S(=O)N[C@@H](CCC1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C20H24F3NOS
reactant | HCl | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | dioxane | 10.8 mL | O1CCOCC1 | C4H8O2
product | (1S)-3-Phenyl-1-[4-(trifluoromethyl)phenyl]propyl amine hydrochloride salt | Cl.C1(=CC=CC=C1)CC[C@@H](C1=CC=C(C=C1)C(F)(F)F)N | InChI=1S/C16H16F3N.ClH/c17-16(18,19)14-9-7-13(8-10-14)15(20)11-6-12-4-2-1-3-5-12;/h1-5,7-10,15H,6,11,20H2;1H/t15-;/m0./s1
